Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
word finding difficulties, confusion, left facial
 
Major Surgical or Invasive Procedure:
___: Right craniotomy for subtotal resection of brain mass

 
History of Present Illness:
___ male with history of CAD s/p CABG and polio as a 
child with residual RLE weakness presents as transfer from OSH 
with findings of a new right-sided brain mass with mass effect. 
Patient presented to ___ earlier today following 
several days of worsening confusion and word-finding difficulty, 
per wife patient also began to shuffle his gait. At OSH, he was
found to have a left facial droop with slurred speech and 
prominent WFD. CTA head to evaluate for stroke pertinent for a 
large right frontal brain mass. He was loaded with Decadron 10mg 
IV and Keppra 500mg IV and transferred to ___ ED for 
Neurosurgical evaluation. 
 
Past Medical History:
Polio
L femur fracture ___
bicycle accident ___ w/handlebars into ___ medical
attention

 
Social History:
___
Family History:
N/C
 
Physical Exam:
On Admission:
Gen: WD/WN, comfortable, NAD.
HEENT: Pupils: 3-2mm bilaterally briskly reactive
EOMs: Intact
Neck: Supple.
Extrem: Warm and well-perfused.

Neuro:
Mental status: Awake and alert, cooperative with exam, flat
affect.
Orientation: Oriented to person, place, and date (___).
Language: Speech slurred with WFD. Naming intact. 

Cranial Nerves:
I: Not tested
II: Pupils equally round and reactive to light, 3 to
2mm bilaterally. 
III, IV, VI: Extraocular movements intact bilaterally without
nystagmus.
V, VII: Left facial droop at rest and with activation. 
VIII: Hearing intact to voice.
IX, X: Palatal elevation symmetrical.
XI: Sternocleidomastoid and trapezius normal bilaterally.
XII: Tongue midline without fasciculations.

Motor: 
- Normal bulk and tone bilaterally. No abnormal movements,
tremors. Strength full power ___ throughout in BUE. No pronator
drift. 
- RLE: IP ___, Q ___, H ___, AT ___, Gas ___
- LLE: IP ___, Q ___, H ___, AT ___, Gas ___

Sensation: Intact to light touch bilaterally.

==========================================================

On discharge:
[x]AVSS 
24 HR Data (last updated ___ @ 735)
    Temp: 98.9 (Tm 98.9), BP: 132/81 (122-132/64-81), HR: 91
(91-104), RR: 18 (___), O2 sat: 96% (95-96), O2 delivery: 2 L
  

Exam:
Full neurologic exam deferred, because patient is CMO. Patient 
is
sleeping comfortably, briefly flickers his eyes open to voice.


 
Pertinent Results:
See OMR for pertinent lab and imaging results.
 
Brief Hospital Course:
#Right Frontal brain lesion
On ___, Mr. ___ presented to the ED at ___ with confusion 
and aphasia.  CTA revealed a right frontal brain lesion; he was 
transferred to ___ for neurosurgical evaluation. He was 
admitted to the neurosurgery service for OR planning. He was 
started on dexamethasone and Keppra. He was taken to the OR on 
___ for a right craniotomy for subtotal resection of the 
lesion. Frozen pathology consistent with high grade glioma; 
final pathology was pending at the time of discharge. The case 
was uncomplicated - please see operative report for further 
details. He was extubated in the OR. He required haldol for 
postoperative agitation and was transferred to the ICU for post 
management. Postop head CT demonstrated multiple areas of 
hemorrhage within the resection bed. He was started on standing 
mannitol q6hrs and high dose decadron. MRI on ___ that 
showed expected residual tumor as well as the known hemorrhage. 
On ___ he became increasingly altered, disoriented, agitated, 
and drooling. Repeat head CT showed increased cerebral edema, 
for which he was given a 20mg dose of decadron followed by 10mg 
q6hrs, and started on hypertonic saline. A goals of care 
discussion was had with the family by Neuro ICU staff, and the 
family elected to transition to comfort measures only. He was 
transferred out to ___ on ___. Palliative care consult 
was placed on ___ who recommended continuation of Keppra to 
prevent seizure and pain/anxiety management as written. 
Emotional support was provided to family throughout 
hospitalization. Patient was discharged to ___ facility for 
further care. 
 
Medications on Admission:
Aspirin 81mg daily
Metoprolol tartrate 50mg BID
Simvastatin 40mg daily
Enalapril maleate 5mg daily
Multivitamin
Vitamin D3 1000u daily

 
Discharge Medications:
1.  Acetaminophen 1000 mg IV Q8H:PRN Pain - Mild Duration: 24 
Hours  
2.  LevETIRAcetam 1000 mg IV Q12H  
3.  LORazepam 0.5-2 mg IV Q2H:PRN anxiety  
4.  Morphine Sulfate ___ mg IV Q15MIN:PRN moderate-severe pain 
or respiratory distress  
5.  Ondansetron 4 mg IV Q8H:PRN Nausea/Vomiting - First Line  
6.  Scopolamine Patch 1 PTCH TD ONCE Duration: 72 Hours  
7.  Sodium Chloride 0.9%  Flush ___ mL IV Q8H and PRN, line 
flush  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Brain lesion

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Discharge Instructions: Brain Tumor

Surgery
• You underwent surgery to debulk a brain lesion from your 
brain. Ultimately, the decision was made to keep you comfortable 
and proceed to a ___ facility for ongoing care. 

What You ___ Experience:
• You may experience headaches and incisional pain. 
• You may also experience some post-operative swelling around 
your face and eyes. This is normal after surgery and most 
noticeable on the second and third day of surgery.  You apply 
ice or a cool or warm washcloth to your eyes to help with the 
swelling. The swelling will be its worse in the morning after 
laying flat from sleeping but decrease when up. 
• You may experience soreness with chewing. This is normal from 
the surgery and will improve with time. Softer foods may be 
easier during this time. 
• Feeling more tired or restlessness is also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

 
Followup Instructions:
___